US07291183B2
1b.) 3-Methyl-4-phenyl-2(3H)-thiazolone hydrazone hydrochloride
From 4-methyl-3-thiosemicarbazide and phenacyl chloride.

reactant | 4-methyl-3-thiosemicarbazide | CNC(NN)=S | C2H7N3S
reactant | phenacyl chloride | C(C(=O)C1=CC=CC=C1)Cl | C8H7ClO
product | 3-Methyl-4-phenyl-2(3H)-thiazolone hydrazone hydrochloride | Cl.CN1C(SC=C1C1=CC=CC=C1)=NN | InChI=1S/C10H11N3S.ClH/c1-13-9(7-14-10(13)12-11)8-5-3-2-4-6-8;/h2-7H,11H2,1H3;1H
